US06989382B2
To 2-(2,4-dichlorophenyl)-4-fluoro-1-nitrobenzene(32 mgs, 0.1 mmol) in acetonitrile was added 2-(2-aminoethylamino)-5-cyanopyridine (19.2 mgs, 0.1 mmol) and N,N diisopropylethylamine (18 μl, 0.1 mmol), and the mixture was heated to 85° C. over-night. The mixture was partitioned between ethyl acetate and water and the organic layer was dried (MgSO4) and concentrated. Purification on silica gel with 5% methanol in dichloromethane as the eluent yielded 25 mgs of 6-({2-[(2′,4′-dichloro-6-nitro-1,1′-biphenyl-3-yl)amino]ethyl}amino)nicotinonitrile.

reactant | 2-(2,4-dichlorophenyl)-4-fluoro-1-nitrobenzene | 0.1 mmol, 32 mgs | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H6Cl2FNO2
reactant | 2-(2-aminoethylamino)-5-cyanopyridine | 0.1 mmol, 19.2 mgs | NCCNC1=NC=C(C=C1)C#N | C8H10N4
reactant | N,N diisopropylethylamine | 0.1 mmol, 18 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-({2-[(2′,4′-dichloro-6-nitro-1,1′-biphenyl-3-yl)amino]ethyl}amino)nicotinonitrile | 25 mgs | ClC1=C(C=CC(=C1)Cl)C1=CC(=CC=C1[N+](=O)[O-])NCCNC1=NC=C(C#N)C=C1 | C20H15Cl2N5O2
